US07064116B2
3-Trimethylsilyl-1-[3α(t-butyidiphenylsilyloxy)-5α-androstan-17β-yl]-2-propyn-1-ol
To a solution of trimethylsilylacetylene (0.24 mL, 1.715 mmol) in anhydrous THF (5.7 mL) at 0° C. was added a solution of n-BuLi (1.07 mL, 1.715 mmol) 1.6 M in hexanes and the resulting mixture was stirred for 2 h. Subsequently, the mixture was cooled to −78° C. and a solution of 3α-(t-butyidiphenylsilyloxy)-5α-androstan-17β-carboxaldehyde (310 mg, 0.57 mmol) in THF (5.7 mL) was added and the mixture was stirred at this temperature for 3 h. Quenching of the reaction by the addition of NH4Cl was followed by extraction with ethyl acetate.

reactant | trimethylsilylacetylene | 1.715 mmol, 0.24 mL | C[Si](C)(C)C#C | C5H10Si
reactant | n-BuLi | 1.715 mmol, 1.6 M, 1.07 mL | [Li]CCCC
reactant | 3α-(t-butyidiphenylsilyloxy)-5α-androstan-17β-carboxaldehyde | 0.57 mmol, 310 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C=O | C36H50O2Si
solvent | THF | 5.7 mL | C1CCOC1 | C4H8O
solvent | THF | 5.7 mL | C1CCOC1 | C4H8O
product | 3-Trimethylsilyl-1-[3α(t-butyidiphenylsilyloxy)-5α-androstan-17β-yl]-2-propyn-1-ol | C[Si](C#CC(O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3C[C@@H](CC[C@]3(C)[C@H]1CC2)O[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)(C)C | C41H60O2Si2
